US04318855
85.1 g (0.5 mol) of the acid obtained according to paragraph (c), namely 2-carboxy-2,4-dimethylcyclopent-4-en-5-olone, are treated with 851 ml of 10% sulphuric acid and the mixture is refluxed for 45 minutes. For the working-up, the mixture is adjusted to pH 7 with 2N sodium hydroxide solution and then extracted three times with methylene chloride. The combined organic phases are dried over sodium sulphate and dried in a high vacuum for 1 hour. There are obtained 57.4 g (91%) of crystalline 3,5-dimethylcyclopent-2-en-2-olone of melting point 93°-94° C. The product is identical with the product obtained according to paragraph (c) of Example 4.

reactant | 2-carboxy-2,4-dimethylcyclopent-4-en-5-olone | C(=O)(O)C1(C(C(=C(C1)C)O)=O)C | C8H10O4
reactant | sulphuric acid | 851 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 3,5-dimethylcyclopent-2-en-2-olone | 57.4 g, 91% | CC1=C(C(C(C1)C)=O)O | C7H10O2
